US07141586B2
5-(allyloxy)-2-sulfanylphenol
6-(Allyloxy)-1,3-benzoxathiol-2-one (48.3 g, 0.232 mol) was dissolved in aq. NaOH solution (2M, 300 ml) and THF (300 ml) to give a yellow solution which stirred at RT for 2 h. The THF was removed in vacuo, a small amount of precipitated starting material removed by filtration, and further starting material was removed by extraction of the aqueous phase into diethyl ether (3×300 ml). The aqueous phase was then acidified to pH 1 with cHCl (˜150 ml) with ice-cooling. Gas evolution was observed, and after 15 min, the title compound was obtained following extraction into diethyl ether (3×300 ml), drying over MgSO4 and concentration to a yellow oil (37.84 g, 0.18 mol).

reactant | 6-(Allyloxy)-1,3-benzoxathiol-2-one | 0.232 mol, 48.3 g | C(C=C)OC1=CC2=C(SC(O2)=O)C=C1 | C10H8O3S
reactant | THF | 300 ml | C1CCOC1 | C4H8O
solvent | NaOH | 2M, 300 ml | [OH-].[Na+]
product | 5-(allyloxy)-2-sulfanylphenol | C(C=C)OC=1C=CC(=C(C1)O)S | C9H10O2S
